US08440689B2
C. cis-tert-Buty 2-aminocyclohexylcarbamate
Aqueous sodium hydroxide (50%, 10 g, 0.125 mole, 5.7 eq) was added to a solution of cis-tert-butyl 2-(2,2,2-trifluoroacetamido)cyclohexylcarbamate in EtOH (about 21.9 mmol). An exotherm from 20 to 37° C. was observed and a fine white slurry formed. The reaction mixture was stirred overnight, during which further solids precipitated out of solution. The solvent volume was concentrated under reduced pressure to about 10 to 15 mL and then IPAc (40 mL) and water (30 mL) were added to form a clean bi-phasic solution. Following phase separation the aqueous phase was extracted with IPAc (15 mL) and the organic extracts were combined and washed with water (15 mL) to give the title compound as a crude racemic product in IPAc.

reactant | sodium hydroxide | 0.125 mole, 10 g, 5.7 eq | [OH-].[Na+]
reactant | cis-tert-butyl 2-(2,2,2-trifluoroacetamido)cyclohexylcarbamate | FC(C(=O)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)(F)F | C13H21F3N2O3
reactant | EtOH | about 21.9 mmol | CCO | C2H6O
product | cis-tert-Buty 2-aminocyclohexylcarbamate | N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
